US08937083B2
Preparation of 3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-amine
To 3-(3-chloro-4-nitro-1H-pyrazol-1-yl)pyridine (0.95 g, 4.23 mmol) in acetic acid (8.46 mL), ethanol (8.46 mL) and water (4.23 mL) was added iron powder (1.18 g, 21.15 mmol) and the reaction was stirred at room temperature for 30 minutes. To this was added carefully 2 M KOH and extracted with ethyl acetate. The ethyl acetate layers were combined, dried (MgSO4), filtered and concentrated to dryness. The crude material was purified by silica gel chromatography (0-10% methanol/dichloromethane) to give the desired product as a white solid (0.66 g, 80%): 1H NMR (400 MHz, CDCl3) δ 8.84 (d, J=2.6 Hz, 1H), 8.49 (dd, J=4.7, 1.4 Hz, 1H), 7.95 (ddd, J=8.3, 2.7, 1.5 Hz, 1H), 7.53 (s, 1H), 7.37 (ddd, J=8.4, 4.7, 0.6 Hz, 1H), 3.17 (bs, 2H).

reactant | 3-(3-chloro-4-nitro-1H-pyrazol-1-yl)pyridine | 4.23 mmol, 0.95 g | ClC1=NN(C=C1[N+](=O)[O-])C=1C=NC=CC1 | C8H5ClN4O2
reactant | KOH | 2 M | [OH-].[K+]
solvent | acetic acid | 8.46 mL | C(C)(=O)O | C2H4O2
solvent | ethanol | 8.46 mL | C(C)O | C2H6O
solvent | water | 4.23 mL | O | H2O
catalyst | iron | 21.15 mmol, 1.18 g | [Fe] | Fe
product | 3-chloro-1-(pyridin-3-yl)-1H-pyrazol-4-amine | 0.66 g, 80% | ClC1=NN(C=C1N)C=1C=NC=CC1 | C8H7ClN4
